US07642264B2
5-{4-[4-(3,4-Dichloro-phenyl)-6-methyl-pyrimidin-2-yl]-pyridin-2-yl}-thiophene-2-sulfonic acid amide
To a cooled and stirred solution of 5-{4-[4-(2,4-dichloro-phenyl)-6-methyl-pyrimidin-2-yl]-pyridin-2-yl}-thiophene-2-sulfonic acid tert-butylamide (0.22 g) in dichloromethane (6 mL) was added TFA (6 mL) and the reaction mixture was allowed to stir at room temperature for 15 h. The mixture was evaporated to dryness and saturated NaHCO3 solution (5 mL), diethyl ether and heptane were added. The mixture was stirred at room temperature for 1 h, the precipitate was collected by filtration, washed with water and heptane and dried. Further purification by flash-chromatography on silica gel (ethyl acetate/hexane) and crystallization (dichloromethane) yielded the title compound as a white solid (0.024 g, 5%). MS (ISP) 477.1 [(M+H)+]; mp 267° C.

reactant | 5-{4-[4-(2,4-dichloro-phenyl)-6-methyl-pyrimidin-2-yl]-pyridin-2-yl}-thiophene-2-sulfonic acid tert-butylamide | 0.22 g | C(C)(C)(C)NS(=O)(=O)C=1SC(=CC1)C1=NC=CC(=C1)C1=NC(=CC(=N1)C1=C(C=C(C=C1)Cl)Cl)C | C24H22Cl2N4O2S2
reactant | TFA | 6 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | dichloromethane | 6 mL | ClCCl | CH2Cl2
product | 5-{4-[4-(3,4-Dichloro-phenyl)-6-methyl-pyrimidin-2-yl]-pyridin-2-yl}-thiophene-2-sulfonic acid amide | 0.024 g, 5% | ClC=1C=C(C=CC1Cl)C1=NC(=NC(=C1)C)C1=CC(=NC=C1)C1=CC=C(S1)S(=O)(=O)N | C20H14Cl2N4O2S2
